US05288749
8-Fluoro-5-methoxy-3,4-dihydro-2H-1-naphthalenone
4-Fluoro-anisole (25 g, 198 mmol) and 48.8 g of ethyl succinyl chloride (298 mmol) were dissolved in 400 mL methylene chlorie and cooled to 0° C. to the reaction mixture was added 66 g of aluminum chloride over 15 minutes, and the reaction was then allowed to warn to 25° C. After 18 hours, the reaction was quenched by pouring onto ice and the product isolated by extraction. The intermediate keto-ester was hydrogenated over a palladium catalyst in ethanol (200 mL) containing concentrated hydrochloric acid (10 mL) until the theoretical amount of hydrogen was consumed. After the catalyst was removed by filtration and the filtrate concentrated under reduced pressure, the intermediate ester was treated with aqueous potassium hydroxide solution (200 mL). Upon acidification, the intermediate acid was obtained. The acid was converted to its acid chloride by treatment with oxalyl chloride (17 mL) in methylene chloride catalyzed by 5 drops of dimethylformamide. The solvent was removed under reduced pressure and the acid chloride was redissolved in methylene chloride. Aluminum chloride (90 g) was added, and the reaction was stirred at 25° C. for 18 hours. The reaction was quenched by pouring onto ice and the product extracted with ethyl acetate. The combined organic extracts were washed with water, dried over magnesium sulfate, and concentrated in vacuo. The residue obtained was recrystallized from hexane/ethyl acetate to yield 18.1 g of the title compound. m.p. 1H NMR (CDCl3, 300 MHz) δ2.1 (m, 2H), 2.62 (t, 2H), 2.89 (t, 2H), 3.83 (s, 3H), 6.95 (m, 2H).

reactant | 4-Fluoro-anisole | 198 mmol, 25 g | FC1=CC=C(C=C1)OC | C7H7FO
reactant | ethyl succinyl chloride | 298 mmol, 48.8 g | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | aluminum chloride | 66 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | oxalyl chloride | 17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chlorie | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | 8-Fluoro-5-methoxy-3,4-dihydro-2H-1-naphthalenone | 18.1 g | FC=1C=CC(=C2CCCC(C12)=O)OC | C11H11FO2
